US08202858B2
(4-{3-[4-(3,3-Dimethyl-butyl)-piperazin-1-yl]-propoxy}-3-fluoro-phenyl)-(2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulen-6-yl)-methanone
(1-Benzyl-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulen-6-yl)-(4-{3-[4-(3,3-dimethyl-butyl)-piperazin-1-yl]-propoxy}-3-fluoro-phenyl)-methanone from Example E69.3 (90 mg, 0.14 mmol) was dissolved in methanol (5 ml) and acetic acid (1 ml) and hydrogenated over 20 wt. % palladium hydroxide catalyst (90 mg) for 8 h. The mixture was filtered through Celite® filter agent and the filtrate concentrated in vacuo. The residue was dissolved in dichloromethane, washed with saturated NaHCO3 then brine, dried and concentrated in vacuo. The residue was purified by preparative HPLC (eluant; 0.5% 35% ammonia:9.5% methanol:90% dichloro-methane) to give a white powder identified as the title compound (39 mg, 51%).

reactant | (1-Benzyl-2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulen-6-yl)-(4-{3-[4-(3,3-dimethyl-butyl)-piperazin-1-yl]-propoxy}-3-fluoro-phenyl)-methanone | C(C1=CC=CC=C1)N1C(=NC=2CCN(C3=C(C12)C=CC=C3)C(=O)C3=CC(=C(C=C3)OCCCN3CCN(CC3)CCC(C)(C)C)F)C | C39H48FN5O2
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 5 ml | CO | CH4O
catalyst | palladium hydroxide | 90 mg | [OH-].[Pd+2].[OH-]
product | (4-{3-[4-(3,3-Dimethyl-butyl)-piperazin-1-yl]-propoxy}-3-fluoro-phenyl)-(2-methyl-4,5-dihydro-1H-1,3,6-triaza-benzo[e]azulen-6-yl)-methanone | 39 mg, 51% | CC(CCN1CCN(CC1)CCCOC1=C(C=C(C=C1)C(=O)N1C2=C(C=3NC(=NC3CC1)C)C=CC=C2)F)(C)C | C32H42FN5O2
